US07951794B2
At 2° C. methylmagnesium bromide (1 mL, 1.7 M in THF) is added to a solution of 4-phenyl-5-propyl-thiophene-2-carboxylic acid methoxy-methyl-amide (900 mg, 3.11 mmol). The mixture stirred for 1 h before another portion (0.2 mL) of the Grignard reagent is added. Stirring is continued for 2 h. The mixture is diluted with water, extracted with EA and the organic extracts are dried over MgSO4 and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 5:4 to give 1-(4-phenyl-5-propyl-thiophen-2-yl)-ethanone (456 mg) as a yellow oil; LC-MS: tR=1.06 min, [M+1]+=245.14, 1H NMR (CDCl3): δ 7.59 (s, 1H), 7.47-7.32 (m, 5H), 2.87-2.81 (m, 2H), 2.54 (s, 3H), 1.76-1.63 (m, 2H), 0.95 (t, J=/.6 Hz, 3H).

reactant | methylmagnesium bromide | 1.7 M, 1 mL | C[Mg]Br
reactant | 4-phenyl-5-propyl-thiophene-2-carboxylic acid methoxy-methyl-amide | 3.11 mmol, 900 mg | CON(C(=O)C=1SC(=C(C1)C1=CC=CC=C1)CCC)C | C16H19NO2S
solvent | water | O | H2O
product | 1-(4-phenyl-5-propyl-thiophen-2-yl)-ethanone | 456 mg | C1(=CC=CC=C1)C=1C=C(SC1CCC)C(C)=O | C15H16OS
